US04921851
In a mixture of 40 ml of ethanol and 5 ml of dioxane is suspended 2.78 g of ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetate, followed by addition of 5 ml of 2N aqueous sodium hydroxide solution. The mixture is stirred at room temperature for 2 hours, at the end of which time 40 ml of ethanol and 80 ml of tetrahydrofuran are added. The mixture is further stirred at room temperature for 19 hours. The reaction mixture is concentrated under reduced pressure and 500 ml of ether is added to the residue (about 50 ml). The resulting crystals are collected by filtration and washed with ether. The crystals are dissolved in a mixture of water, tetrahydrofuran and ethyl acetate (1:1:2) and the solution is adjusted to pH 2 and shaken. The organic layer is separated, washed with aqueous sodium chloride solution and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and a mixture of ether and petroleum ether (2:1) is added to the residue. The resulting powders are collected by filtration to give 2.14 g of 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetic acid as light yellow powders.

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetate | 2.78 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCSCC#N | C30H28N4O3S2
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetic acid | 2.14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCSCC#N | C28H24N4O3S2
